US05773439
a) N-(2,5-Dimethoxytetrahydrofuran-3-yl)methyl-N'-(4-ethoxycarbonylphenyl)urea
25.0 g (0.15 Mol) of 3-aminomethyl-2,5-dimethoxytetrahydrofuran and 30 g (0.15 mol) of 4-ethoxycarbonylphenyl isocyanate were reacted by method 48a. 57 g of the crude product were obtained and were reacted without purification.

reactant | 3-aminomethyl-2,5-dimethoxytetrahydrofuran | 0.15 Mol, 25.0 g | NCC1C(OC(C1)OC)OC | C7H15NO3
reactant | 4-ethoxycarbonylphenyl isocyanate | 0.15 mol, 30 g | C(C)OC(=O)C1=CC=C(C=C1)N=C=O | C10H9NO3
product | N-(2,5-Dimethoxytetrahydrofuran-3-yl)methyl-N'-(4-ethoxycarbonylphenyl)urea | 57 g | COC1OC(CC1CNC(=O)NC1=CC=C(C=C1)C(=O)OCC)OC | C17H24N2O6
